US06204249B1
4-Bromo-5,6-dichloro-2-(isopropylamino)-1-(beta-L-ribofuranosyl)-1H-benzimidazole
4Bromo-5,6-dichloro-2-(isopropylamino)-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (1.16 g, 2.0 mmol), sodium carbonate (0.28 g, 2.64 mmol), water (4 mL), methanol (6 mL), and ethanol (8 mL) were used according to general procedure III. The product was purified by silica gel chromatography using 10:1 dichloromethane/methanol to afford 0.64 g (70%) of a white powder, m.p. 221-222° C. Anal. Calcd for C15H18BrCl2N3O4: C, 39.59; H, 3.99; N, 9.23. Pound: C, 39.42; H, 4.20; N, 9.05.

reactant | 4Bromo-5,6-dichloro-2-(isopropylamino)-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 2.0 mmol, 1.16 g | BrC1=C(C(=CC=2N(C(=NC21)NC(C)C)[C@@H]2[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O2)COC(C)=O)Cl)Cl | C21H24BrCl2N3O7
reactant | sodium carbonate | 2.64 mmol, 0.28 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 4 mL | O | H2O
reactant | methanol | 6 mL | CO | CH4O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4-Bromo-5,6-dichloro-2-(isopropylamino)-1-(beta-L-ribofuranosyl)-1H-benzimidazole | 0.64 g, 70% | BrC1=C(C(=CC=2N(C(=NC21)NC(C)C)[C@@H]2[C@@H](O)[C@@H](O)[C@@H](O2)CO)Cl)Cl | C15H18BrCl2N3O4
